US07067537B2
ii) Production of 2-methyl-4-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]isoindolin-1-one
By the reaction in the same manner as in Example 25-ii) using 2-methyl-1-oxo-4-isoindolincarbonitrile (364 mg), crude 2-methyl-1-oxoisoindolin-4-carbothioamide (603 mg) was obtained as a brown powder. Then, by the reaction in the same manner as in Example 25-iii), 2-bromo-1-(4-methylpyridin-3-yl)ethanone hydrobromate (500 mg) and 2-methyl-1-oxoisoindolin-4-carbothioamide (520 mg), the title compound (187 mg) was obtained as colorless powder crystals.

reactant | 2-bromo-1-(4-methylpyridin-3-yl)ethanone | 500 mg | BrCC(=O)C=1C=NC=CC1C | C8H8BrNO
reactant | 2-methyl-1-oxoisoindolin-4-carbothioamide | 520 mg | CN1C(C=2C=CC=C(C2C1)C(N)=S)=O | C10H10N2OS
product | 2-methyl-4-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]isoindolin-1-one | 187 mg | CN1C(C2=CC=CC(=C2C1)C=1SC=C(N1)C=1C=NC=CC1C)=O | C18H15N3OS
